US05591742
3-(2-Ethoxybenzoylamino)pyridine-2-carboxamide
The title compound was prepared from 2-ethoxybenzoyl chloride and 3-aminopyridine-2-carboxamide (J. Chem. Soc., 1956, 1045) following the procedure of Preparation 7 and was obtained as an off-white solid (100 %), m.p. 172°-177° C. Found: C,62.91; H,5.30; N,14.51. C15H15N3O3 requires C,63.15; H,5.30; N,14.73%.

reactant | 2-ethoxybenzoyl chloride | C(C)OC1=C(C(=O)Cl)C=CC=C1 | C9H9ClO2
reactant | 3-aminopyridine-2-carboxamide | NC=1C(=NC=CC1)C(=O)N | C6H7N3O
product | 3-(2-Ethoxybenzoylamino)pyridine-2-carboxamide | C(C)OC1=C(C(=O)NC=2C(=NC=CC2)C(=O)N)C=CC=C1 | C15H15N3O3
